US07674789B2
29f) 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide hydrochloride salt
Acetone (451 uL) was added to the partially crystalline 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide free-base (25.2 mg). Hydrochloric acid was added (1.1 equivalents; 1M in 1,4-dioxane), and the resulting mixture was temperature-cycled from 0-40° C. for a minimum of 48 hours. The product was filtered and dried in vacuo at room temperature. Yielded 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide HCl salt with a melting onset at 259° C. (determined by DSC).

reactant | Acetone | 451 uL | CC(=O)C | C3H6O
reactant | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 25.2 mg | C(C)N(CCCNC=1N=C(C2=C(N(C(NC2)=O)C2=C(C=CC=C2F)F)N1)C=1C=C(C(=O)NCCC)C=CC1C)CC | C30H37F2N7O2
reactant | Hydrochloric acid | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide hydrochloride salt | Cl.C(C)N(CCCNC=1N=C(C2=C(N(C(NC2)=O)C2=C(C=CC=C2F)F)N1)C=1C=C(C(=O)NCCC)C=CC1C)CC | InChI=1S/C30H37F2N7O2.ClH/c1-5-14-33-28(40)20-13-12-19(4)21(17-20)25-22-18-35-30(41)39(26-23(31)10-8-11-24(26)32)27(22)37-29(36-25)34-15-9-16-38(6-2)7-3;/h8,10-13,17H,5-7,9,14-16,18H2,1-4H3,(H,33,40)(H,35,41)(H,34,36,37);1H
